US04082892
The procedure described in Example 1 is repeated in all essential details with the exception that 2-amino-2-methyl-1,3-propanediol is reacted with butyric acid in a 1:1 molar ratio according to the method of Purcell to produce 2-propyl-4-methyl-4-hydroxymethyl-2-oxazoline.

reactant | 2-amino-2-methyl-1,3-propanediol | NC(CO)(CO)C | C4H11NO2
reactant | butyric acid | C(CCC)(=O)O | C4H8O2
product | 2-propyl-4-methyl-4-hydroxymethyl-2-oxazoline | C(CC)C=1OCC(N1)(CO)C | C8H15NO2
